US08193378B2
7-[(5-Bromo-4-phenyl-2-thienyl)methoxy]-2H-chromene-3-carbaldehyde (120 mg) was dissolved in DMF (2.4 mL). To this reaction liquid were added Zn(CN)2 (65 mL) and Pd(PPh3)4 (65 mg) at room temperature. The reaction mixture was stirred at 100° C. for 5 hours and then poured into 1:1 a mixed vehicle of aqueous NaHCO3 and EtOAc, followed by stirring for 1 hour. The organic layer was washed with brine, dried over MgSO4, and then concentrated under reduced pressure, followed by purification by silica gel column chromatography (hexane:EtOAc=100:0 to 70:30) to obtain 5-{[(3-formyl-2H-chromen-7-yl)oxy]methyl}-3-phenylthiophene-2-carbonitrile (83 mg) as a pale yellow solid.

reactant | 7-[(5-Bromo-4-phenyl-2-thienyl)methoxy]-2H-chromene-3-carbaldehyde | 120 mg | BrC1=C(C=C(S1)COC1=CC=C2C=C(COC2=C1)C=O)C1=CC=CC=C1 | C21H15BrO3S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | DMF | 2.4 mL | CN(C)C=O | C3H7NO
catalyst | Zn(CN)2 | 65 mL | [C-]#N.[C-]#N.[Zn+2]
catalyst | Pd(PPh3)4 | 65 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-{[(3-formyl-2H-chromen-7-yl)oxy]methyl}-3-phenylthiophene-2-carbonitrile | 83 mg | C(=O)C=1COC2=CC(=CC=C2C1)OCC1=CC(=C(S1)C#N)C1=CC=CC=C1 | C22H15NO3S
